US04063925
1,3-Dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole isopropylamine salt
In 50 ml. of benzene is suspended 2.85 g. of 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole and 0.7 g. of isopropylamine is added to the suspension with stirring. Then, the resulting mixture is stirred at room temperature for about 1 hour. The solvent is distilled off from the reaction mixture. The residue is cooled. The so separated solid material is recovered by filtration, washed with petroleum ether and dried to give 3.2 g. of the desired product as white powdery substance melting at 130°-140° C. Yield 93.2%.

reactant | 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole | CN1N=C(C(=C1O)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | C12H10Cl2N2O2
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1,3-Dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole isopropylamine salt | Yield 93.2% | C(C)(C)N.CN1N=C(C(=C1O)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | InChI=1S/C12H10Cl2N2O2.C3H9N/c1-6-10(12(18)16(2)15-6)11(17)8-4-3-7(13)5-9(8)14;1-3(2)4/h3-5,18H,1-2H3;3H,4H2,1-2H3
